US04985427
N-(3-Cyanophenyl)glycine methyl ester
A mixture of sodium bicarbonate (35.5 g), methyl chloroacetate (28 ml) and 3-aminobenzonitrile (25 g) were stirred under nitrogen at 80°-100° for 6 h. Heating at 90° was continued overnight, and the mixture was then cooled and poured into ether (400 ml). The solid precipitate was filtered off and the filtrate was retained. The solid was dissolved in dichloromethane (400 ml) and washed with water (200 ml) followed by dilute hydrochloric acid (200 ml). The organic phase was dried and concentrated in vacuo to give the title compound as a solid (13.8 g), m.p. 91.5°-92.5°. The previously obtained filtrate was washed with water (100 ml), dilute hydrochloric acid (200 ml) and water (100 ml), then dried and concentrated in vacuo. The resultant solid was triturated with ether to give a further batch of the title compound (11.7 g).

reactant | sodium bicarbonate | 35.5 g | C([O-])(O)=O.[Na+]
reactant | methyl chloroacetate | 28 ml | ClCC(=O)OC | C3H5ClO2
reactant | 3-aminobenzonitrile | 25 g | NC=1C=C(C#N)C=CC1 | C7H6N2
solvent | ether | 400 ml | CCOCC | C4H10O
product | N-(3-Cyanophenyl)glycine methyl ester | 13.8 g | COC(CNC1=CC(=CC=C1)C#N)=O | C10H10N2O2
